US08431607B2
A mixture of (S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)-phenyl)imidazolidin-1-yl)propanenitrile (97 mg, 0.25 mmol), hydroxylamine hydrogen chloride (85.5 mg, 1.23 mmol), K2CO3 (187 mg, 1.35 mmol) and anhydrous ethanol (4 mL) are refluxed for 2 days. The solvent is removed under vacuum. The residue is taken into ethyl acetate, washed with sat. NaHCO3 and brine. The organic phase is dried by Mg2SO4. The solvent is removed under vacuum to afford crude (S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N′-hydroxy-propanimidamide which is used directly in the next step without further purification. HPLC-MS calculated for C19H19ClF3N4O2 (M+H+) 427.1, found 427.1.

reactant | (S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)-phenyl)imidazolidin-1-yl)propanenitrile | 0.25 mmol, 97 mg | ClC1=CC=C(C=C1)N1C(N(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)CCC#N)=O | C19H15ClF3N3O
reactant | hydroxylamine hydrogen chloride | 1.23 mmol, 85.5 mg | Cl.NO
reactant | K2CO3 | 1.35 mmol, 187 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (S)-3-(3-(4-chlorophenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N′-hydroxy-propanimidamide | ClC1=CC=C(C=C1)N1C(N(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)CCC(N)=NO)=O | C19H18ClF3N4O2
